US08664220B2
Step 3: 1-(4′-{4-[(5-Benzyl-pyridin-3-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 28, Step 1, using (5-benzyl-pyridin-3-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | (5-benzyl-pyridin-3-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)C=1C=C(C=NC1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C23H19BrN2O2
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-(4′-{4-[(5-Benzyl-pyridin-3-yl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1C=NC=C(C1)CC1=CC=CC=C1 | C35H32N2O4
